US07728012B2
N-{1-[Amino(oxo)acetyl]pentyl}-2-(3-phenyl-1H-pyrazol-1-yl)nicotinamide
Preparation in analogy to Example 5 by coupling 2-(3-phenyl-1H-pyrazol-1-yl)pyridine-3-carboxylic acid and 3-amino-2-hydroxyheptanamide hydrochloride and subsequent oxidation afforded 40 mg of the title compound as a white solid.

reactant | 2-(3-phenyl-1H-pyrazol-1-yl)pyridine-3-carboxylic acid | C1(=CC=CC=C1)C1=NN(C=C1)C1=NC=CC=C1C(=O)O | C15H11N3O2
reactant | 3-amino-2-hydroxyheptanamide hydrochloride | Cl.NC(C(C(=O)N)O)CCCC
product | N-{1-[Amino(oxo)acetyl]pentyl}-2-(3-phenyl-1H-pyrazol-1-yl)nicotinamide | 40 mg | NC(C(=O)C(CCCC)NC(C1=C(N=CC=C1)N1N=C(C=C1)C1=CC=CC=C1)=O)=O | C22H23N5O3
